US07939524B2
d) rac-Methyl (1R,2R,4S,5S,6S,7R)-7-aminotricyclo[3.2.2.02,4]nonane-6-carboxylate hydrochloride
rac-Methyl (1R,2R,4S,5S,6S,7R)-7-{[(benzyloxy)carbonyl]amino}tricyclo[3.2.2.02,4]non-8-ene-6-carboxylate (0.61 g, 1.85 mmol) was dissolved in ethyl acetate (10 mL). 5% Palladium on carbon (0.10 g) was added. The flask was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16h. The mixture was passed through a plug of Celite and the filtrate was concentrated in vacuo to afford a thick clear oil. The oil was dissolved in diethyl ether (6 mL) and added dropwise, with vigorous stirring, to a mixture of a 4.0 M solution of hydrochloric acid in 1,4-dioxane (0.93 mL) in diethyl ether (11 mL). The mixture was concentrated and dried in vacuo to afford the desired product, rac-Methyl (1R,2R,4S,5S,6S,7R)-7-aminotricyclo[3.2.2.02,4]nonane-6-carboxylate hydrochloride (0.43 g, 1.85 mmol, 100%), as a sticky gum. LC-MS (ESI) calcd for C11H17NO2 (free amine) 195.26, found 196.5 [M+H+.

reactant | rac-Methyl (1R,2R,4S,5S,6S,7R)-7-{[(benzyloxy)carbonyl]amino}tricyclo[3.2.2.02,4]non-8-ene-6-carboxylate | 1.85 mmol, 0.61 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H]([C@@H]2[C@H]3C[C@H]3[C@H]1C=C2)C(=O)OC | C19H21NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 0.10 g | [Pd] | Pd
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 0.93 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 11 mL | C(C)OCC | C4H10O
product | rac-Methyl (1R,2R,4S,5S,6S,7R)-7-aminotricyclo[3.2.2.02,4]nonane-6-carboxylate hydrochloride | 1.85 mmol, 0.43 g, 100% | Cl.N[C@H]1[C@H]([C@@H]2[C@H]3C[C@H]3[C@H]1CC2)C(=O)OC | InChI=1S/C11H17NO2.ClH/c1-14-11(13)9-5-2-3-6(10(9)12)8-4-7(5)8;/h5-10H,2-4,12H2,1H3;1H/t5-,6+,7+,8-,9-,10+;/m0./s1
